US05624950
A mixture of 3.5 g of (3aRS,4RS,7SR,7aRS)-2-benzyl-7-(hydroxymethyl)-4-(2-methoxyphenyl)-7-methyl-4-perhydroisoindolol, 2.0 g of 20% palladium hydroxide on charcoal and 75 cm3 of ethanol is heated to 50° C. After sparging with hydrogen for two hours, the reaction mixture is cooled to room temperature and flushed with a stream of nitrogen, filtered and concentrated under reduced pressure (2.7 kPa). 1.5 g of (3aRS,4RS,7SR,7aRS)-7-(hydroxymethyl)-4-(2-methoxyphenyl)-7-methyl-4-perhydroisoindolol are obtained in the form Of a white solid.

reactant | (3aRS,4RS,7SR,7aRS)-2-benzyl-7-(hydroxymethyl)-4-(2-methoxyphenyl)-7-methyl-4-perhydroisoindolol | 3.5 g | C(C1=CC=CC=C1)N1CC2C(CCC(C2C1)(O)C1=C(C=CC=C1)OC)(C)CO | C24H31NO3
catalyst | palladium hydroxide on charcoal | 2.0 g | [OH-].[OH-].[Pd+2]
solvent | ethanol | 75 cm3 | C(C)O | C2H6O
product | (3aRS,4RS,7SR,7aRS)-7-(hydroxymethyl)-4-(2-methoxyphenyl)-7-methyl-4-perhydroisoindolol | 1.5 g | OCC1(CCC(C2CNCC12)(O)C1=C(C=CC=C1)OC)C | C17H25NO3
